US04568687
N-Benzyl-N-[3-(1H-imidazol-1-yl)propyl]benzamide
A mixture of 4.58 g. of N-[3-(1H-imidazol-1-yl)propyl]benzamide, 40 ml. of dimethylformamide, and 0.96 g. of 50% sodium hydride in oil was stirred for 2 hours and 2.62 g. of benzyl bromide was added. The mixture was stirred for 24 hours, concentrated to remove the dimethyl formamide, diluted with water and methylene chloride, and the layers separated. The organic layer was washed with water, dried over magnesium sulfate, and concentrated. The oil was twice washed with hexane and again concentrated. The desired product was obtained as an oil.

reactant | N-[3-(1H-imidazol-1-yl)propyl]benzamide | N1(C=NC=C1)CCCNC(C1=CC=CC=C1)=O | C13H15N3O
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-Benzyl-N-[3-(1H-imidazol-1-yl)propyl]benzamide | C(C1=CC=CC=C1)N(C(C1=CC=CC=C1)=O)CCCN1C=NC=C1 | C20H21N3O
